US07812022B2
N-(3-{3-[2-(2,3-Dihydro-benzo[1,4]dioxin-6-ylamino)-pyrimidin-4-yl]-pyrazolo[1,5-a]pyridin-2-yl}-phenyl)-thiobenzamide
A mixture of N-(3-{3-[2-(2,3-dihydro-benzo[1,4]dioxin-6-ylamino)-pyrimidin-4-yl]-pyrazolo[1,5-a]pyridin-2-yl}-phenyl)-benzamide (43 mg, 0.08 mmol) and excess of Lawesson's Reagent in 1,4-dioxane (1 mL) was heated at 100° C. in a sealed tube. When LC/MS showed the starting material to be consumed, the mixture was cooled to ambient temperature and diluted with DCM. The organic phase was washed with water, dried over MgSO4 and concentrated. The crude material was purified through silica gel to give the title compound as a yellow solid. 1H NMR (400 MHz, d6-DMSO): δ 11.85 (s, 1H), 9.34 (s, 1H), 8.82 (d, J=6.8 Hz, 1H), 8.49 (d, J=8.4 Hz, 1H), 8.20 (d, J=5.6 Hz, 1H), 8.14 (s, 1H), 7.97 (d, J=8.0 Hz, 1H), 7.80 (d, J=7.2 Hz, 1H), 7.57-7.42 (m, 6H), 7.35 (m, 1H), 7.13-7.10 (m, 2H), 6.73 (d, J=8.8 Hz, 1H), 6.49 (d, J=5.2 Hz, 1H), 4.19 (m, 4H). MS (ESI) m/z=557 [M+H]+.

reactant | N-(3-{3-[2-(2,3-dihydro-benzo[1,4]dioxin-6-ylamino)-pyrimidin-4-yl]-pyrazolo[1,5-a]pyridin-2-yl}-phenyl)-benzamide | 0.08 mmol, 43 mg | O1CCOC2=C1C=CC(=C2)NC2=NC=CC(=N2)C=2C(=NN1C2C=CC=C1)C=1C=C(C=CC1)NC(C1=CC=CC=C1)=O | C32H24N6O3
reactant | Lawesson's Reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | N-(3-{3-[2-(2,3-Dihydro-benzo[1,4]dioxin-6-ylamino)-pyrimidin-4-yl]-pyrazolo[1,5-a]pyridin-2-yl}-phenyl)-thiobenzamide | O1CCOC2=C1C=CC(=C2)NC2=NC=CC(=N2)C=2C(=NN1C2C=CC=C1)C=1C=C(C=CC1)NC(C1=CC=CC=C1)=S | C32H24N6O2S
